US05116741
H-Gly-Gly-OMe
2.5 g (19 mmoles) of Gly-Gly-OH was suspended in 25 mL of dry methanol. Two equivalents of thionyl chloride were added, and the suspension stirred to dissolution. The mixture was allowed to sit at room temperature overnight. The solvent was removed under vacuum, the residue taken up in a minimum of methanol, and anhydrous ether added to effect crystallization. Yield 3.2 g (92%). M.P. 146°-146° C. 1H-NMR (DMSO) 3.6 (s, 3H OMe), 3.8 and 3.9 (d, 2H, Gly α-H's).

reactant | Gly-Gly-OH | 19 mmoles, 2.5 g | NCC(=O)NCC(=O)O | C4H8N2O3
reactant | thionyl chloride | Two equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 25 mL | CO | CH4O
product | H-Gly-Gly-OMe | NCC(=O)NCC(=O)OC | C5H10N2O3
